US04695639
In 260 ml of methylene chloride was dissolved 87.9 g (1.407 moles) of diketene. The solution was cooled to -35° C. and 74.2 g (1.045 moles) of chlorine gas was bubbled into the solution at -35° to -30° C. for about 2 hours to prepare a methylene chloride solution of 4-chloroacetoacetyl chloride. Separately, 100 g (0.805 mole) of methylsulfonylethanol was dissolved in 130 ml of methylene chloride followed by addition of 63.7 g of pyridine. To this solution was added the above methylene chloride solution of 4-chloroacetoacetyl chloride at -5° to 0° C. dropwise over a period of about 1.5 hours. The mixture was then stirred for 30 minutes and poured in water, and 800 ml of methylene chloride was added to extract the reaction product. The water layer was further extracted with methylene chloride and the organic layers were combined and washed with water. The organic solution was concentrated to dryness and the concentrate was dissolved in 50 ml of methylene chloride and crystallized by addition of 200 ml of isopropyl ether to give 156.3 g (yield: 80% based on methylsulfonylethanol) of methylsulfonylethyl 4-chloroacetoacetate as white crystals.

reactant | diketene | 1.407 moles, 87.9 g | C=C1CC(=O)O1 | C4H4O2
reactant | chlorine | 1.045 moles, 74.2 g | ClCl | Cl2
reactant | 4-chloroacetoacetyl chloride | ClCC(CC(=O)Cl)=O | C4H4Cl2O2
reactant | methylsulfonylethanol | 0.805 mole, 100 g | CS(=O)(=O)C(C)O | C3H8O3S
solvent | methylene chloride | 260 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 63.7 g | N1=CC=CC=C1 | C5H5N
product | methylsulfonylethyl 4-chloroacetoacetate | 156.3 g, yield: 80% | ClCC(CC(=O)OCCS(=O)(=O)C)=O | C7H11ClO5S
